US07700638B2
7-(3-(1-Hydroxyethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole
To a suspension of 7-(3-acetylphenyl)-1-phenyl-5-trifluoromethylbenzimidazole (0.95 g, 2.5 mmol) in ethanol (10 ml) was added sodium borohydride (0.1 g, 2.6 mmol) and the resultant mixture was stirred at 60° C. for 20 min. The cooled reaction mixture was concentrated under reduced pressure and the concentrate was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulphate and concentrated to a small volume (1-2 ml) under reduced pressure. The title product precipitated upon addition of ligroin to the concentrate (0.65 g, 68%) m/z, 383.1 (M+H)+.

reactant | 7-(3-acetylphenyl)-1-phenyl-5-trifluoromethylbenzimidazole | 2.5 mmol, 0.95 g | C(C)(=O)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H15F3N2O
reactant | sodium borohydride | 2.6 mmol, 0.1 g | [BH4-].[Na+]
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 7-(3-(1-Hydroxyethyl)phenyl)-1-phenyl-5-trifluoromethylbenzimidazole | OC(C)C=1C=C(C=CC1)C1=CC(=CC2=C1N(C=N2)C2=CC=CC=C2)C(F)(F)F | C22H17F3N2O
